US05037917
Preparation and Polymerization of 4,4'-Bis(Trifluorovinyl)Biphenyl
After 24 hours, a GC/MS of the mixture allows identification of all the reaction components. After 72 hours, the reaction seems to stop proceeding while excess diiodobiphenyl remains: another batch of iodotrifluoroethylene (25.0 g, 0.12 mole) is reacted with zinc in THF and added to the reaction mixture along with 1.0 g of palladium tetrakis(triphenylphosphine) catalyst. The reaction is allowed to stir an additional 12 hours, then is removed and evaporated to dryness under high vacuum on a rotary evaporator. Residue from evaporation is added to a 3 fold volumetric excess of water. A heavy precipitate is formed which is filtered and air dried on a vacuum funnel. The precipitate is dissolved in THF and filtered. Resulting filtrate is coated on silica gel by adding the silica gel to the THF solution and evaporating to dryness. This silica gel is then eluted on a short silica gel column using hexane as eluent to remove the colored material from the product. A fine white crystalline material remains after evaporation of the hexane. This crystalline material is then chromatographed again carefully on an alumina column using hexane as an eluent. The first band to elute from the column is the desired monomer product CF2 =CF--Ph--Ph--CF=CF2. A total of 44.2 g of product is recovered (58.7% yield).

reactant | diiodobiphenyl | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | iodotrifluoroethylene | 0.12 mole, 25.0 g | IC(=C(F)F)F | C2F3I
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium tetrakis(triphenylphosphine) | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | zinc | [Zn] | Zn
product | 4,4'-Bis(Trifluorovinyl)Biphenyl | FC(=C(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=C(F)F)F | C16H8F6
